US07279481B2
5,5-Dimethyl-1-(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2-imidazolidinone (E163)
The title compound was prepared in 87% yield according to the general procedure for the preparation of the amides, ureas and carbamates (Method A) starting from 5-{4-[2-(3-iodophenyl)ethyl]-1-piperazinyl}2-methylquinoline and 4,4-dimethyl-2-imidazolidinone.

reactant | 5-{4-[2-(3-iodophenyl)ethyl]-1-piperazinyl}2-methylquinoline | IC=1C=C(C=CC1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C22H24IN3
reactant | 4,4-dimethyl-2-imidazolidinone | CC1(NC(NC1)=O)C | C5H10N2O
product | 5,5-Dimethyl-1-(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2-imidazolidinone | 87% yield | CC1(CNC(N1C1=CC(=CC=C1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)=O)C | C27H33N5O
